
*//-----------------------------------------------------------------------//
*//   Part No.    : HHSD500ELL181MJC5S
*//   Date        : 2021/07/20
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2021 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHSD500ELL181MJC5S_20deg-C 1 2

C1 4 2 1.12e-04
C2 5 2 2.69e-05
C3 6 2 2.30e-05
R1 3 4 1.48e-02
R2 4 5 2.13e-01
R3 5 6 5.67e+00
L1 1 3 5.20e-09

.ENDS
*$
